US04702999
Synthesis of an intermediate: 1-phenyl-5-(3-formyl-4-hydroxybenzylthio)tetrazole
25.6 g of 5-chloromethylsalicylaldehyde and 26.7 g of 1-phenyl-5-mercaptotetrazole were dissolved in 250 ml of dioxane. Then, internal temperature of the solution was lowered to 20° C. or less with ice water and thereto was added dropwise 20.8 ml of triethylamine with stirring followed by stirring at room temperature for 2 hours. After completion of the reaction, the precipitated salt was filtered off and the filtrate was concentrated under reduced pressure. Thus obtained residue was dissolved in 500 ml of ethyl acetate and then washed with water and the organic layer was dried over anhydrous sodium sulfate. Thereafter sodium sulfate was filtered off and the solvent was distilled out under reduced pressure. The residue was recrystallized from a mixed solvent of ethyl acetate and cyclohexane.

reactant | 5-chloromethylsalicylaldehyde | 25.6 g | ClCC1=CC=C(C(C=O)=C1)O | C8H7ClO2
reactant | 1-phenyl-5-mercaptotetrazole | 26.7 g | C1(=CC=CC=C1)N1N=NN=C1S | C7H6N4S
reactant | triethylamine | 20.8 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 1-phenyl-5-(3-formyl-4-hydroxybenzylthio)tetrazole | C1(=CC=CC=C1)N1N=NN=C1SCC1=CC(=C(C=C1)O)C=O | C15H12N4O2S
